US06872731B2
3-[3-(7-Formylimidazo[1,2-α]pyridin-3-yl)phenyl]thiophene-2-carbonitrile
3-Bromoimidazo[1,2-α]pyridine-7-carboxaldehyde (1.15 g, 5.16 mmol), potassium phosphate (2.19 g, 10.31 mmol) and 3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]thiophene-2-carbonitrile (2.58 g, 8.26 mmol) were dissolved in N,N-dimethylacetamide (15 ml) and the mixture degassed with N2 for 15 min. Tetrakis(triphenylphosphine)pallidum(0) (0.30 g, 0.26 mmol) was added and the mixture heated at 80° C. for 18 h. The mixture was allowed to cool to room temperature, diluted with water (20 ml) and saturated sodium hydrogencarbonate solution (20 ml), then extracted with ethyl acetate (2×75 ml). The combined organic fractions were washed with brine (40 ml), dried over anhydrous sodium sulfate and evaporated to give a black oil. The oil was purified by silica gel chromatography eluting with dichloromethane and 1% conc. ammonia on a gradient of methanol (1-2%). The solid obtained was triturated with diethyl ether which gave the title compound (1.15 g, 68%) as a white powder. Oxalate salt, white powder. 1H NMR (360 MHz, d6-DMSO) δH 7.30 (1H, dd, J 7 and 1), 7.70-7.88 (4H, m), 8.08 (1H, s), 8.16-8.22 (2H, m), 8.44 (1H, s), 8.78 (1H, d, J 7), 10.05 (1H, s); m /z (ES+) 330 (M++H).

reactant | 3-Bromoimidazo[1,2-α]pyridine-7-carboxaldehyde | 5.16 mmol, 1.15 g | BrC1=CN=C2N1C=CC(=C2)C=O | C8H5BrN2O
reactant | potassium phosphate | 10.31 mmol, 2.19 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]thiophene-2-carbonitrile | 8.26 mmol, 2.58 g | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C1=C(SC=C1)C#N)C | C17H18BNO2S
solvent | N,N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
solvent | water | 20 ml | O | H2O
solvent | sodium hydrogencarbonate | 20 ml | C(O)([O-])=O.[Na+]
product | 3-[3-(7-Formylimidazo[1,2-α]pyridin-3-yl)phenyl]thiophene-2-carbonitrile | 1.15 g, 68% | C(=O)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C2=C(SC=C2)C#N | C19H11N3OS
